US04734430
To a solution of 321 ml of 1.0 N lithium bis(trimethylsilyl)amide in 350 ml of anhydrous tetrahydrofuran maintained at -78° C, there was added dropwise a solution of 33 g of 1-benzyl-1,5,6,7-tetrahydro-4H-indazol-4-one in 150 ml of anhydrous tetrahydrofuran. The mixture was stirred at -78° C. for 10 minutes and then a solution of 11.4 g of acetyl chloride in 120 ml of anhydrous tetrahydrofuran was added. The reaction mixture was worked up in the same manner as described in the first paragraph of this example to give 5-acetyl-1-benzyl-1,5,6,7-tetrahydro-4H-indazol-4one as a yellow oil which crystallized on standing.

reactant | lithium bis(trimethylsilyl)amide | 1.0 N, 321 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 1-benzyl-1,5,6,7-tetrahydro-4H-indazol-4-one | 33 g | C(C1=CC=CC=C1)N1N=CC=2C(CCCC12)=O | C14H14N2O
reactant | acetyl chloride | 11.4 g | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 5-acetyl-1-benzyl-1,5,6,7-tetrahydro-4H-indazol-4one | C(C)(=O)C1C(C=2C=NN(C2CC1)CC1=CC=CC=C1)=O | C16H16N2O2
